US08217052B2
2-(4-Bromo-phenyl)-9-oxa-2-aza-spiro[5.5]undecan-1-one
To a clear solution of 4-[3-(4-Bromo-phenylamino)-propyl]-tetrahydro-pyran-4-carboxylic acid methyl ester (0.74 g, 2.08 mmol) in THF (25 mL) was added a solution of 1.0 mL of potassium t-butoxide (1M in THF) at r.t. (water bath at rt). The clear solution turned a little bit cloudy. After 15 min, TLC (5% MeOH in DCM) showed the reaction is complete (spot to spot), LC/MS detected the product peak. The reaction was cooled tin an ice-water bath, diluted with 25 mL of ethyl acetate, quenched with 10 mL of water. The two layers were separated. The aqueous layer was extracted with EtOAc (2×10 mL). The combined EtOAc extracts were washed with brine, and concentrated on rotavap to yield a crude product as a slightly yellow solid. This material was loaded onto a 25-g of silica gel column, eluted with DCM and 5% MeOH in DCM to get 0.64 g (86% yield) of the title compound as a white solid.

reactant | 4-[3-(4-Bromo-phenylamino)-propyl]-tetrahydro-pyran-4-carboxylic acid methyl ester | 2.08 mmol, 0.74 g | COC(=O)C1(CCOCC1)CCCNC1=CC=C(C=C1)Br | C16H22BrNO3
reactant | potassium t-butoxide | 1M, 1.0 mL | CC(C)([O-])C.[K+]
reactant | water | O | H2O
reactant | tin | [Sn] | Sn
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | MeOH | CO | CH4O
product | 2-(4-Bromo-phenyl)-9-oxa-2-aza-spiro[5.5]undecan-1-one | 0.64 g, 86% yield | BrC1=CC=C(C=C1)N1C(C2(CCC1)CCOCC2)=O | C15H18BrNO2
